US04200641
To a stirred and warm (40° C.) mixture of 9.5 parts of 1H-benzimidazole, 2 parts of N,N,N-triethylbenzenemethanaminium chloride, 225 parts of a sodium hydroxide solution 50% and 90 parts of tetrahydrofuran are added 17 parts of 1-bromo-3-chloro-2-methylpropane. The whole is heated to about 60° C. and stirring is continued for 15 minutes at this temperature. The reaction mixture is cooled and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1-(3-chloro-2-methylpropyl)-1H-benzimidazole as an oily residue.

reactant | 1H-benzimidazole | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-bromo-3-chloro-2-methylpropane | BrCC(CCl)C | C4H8BrCl
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(3-chloro-2-methylpropyl)-1H-benzimidazole | ClCC(CN1C=NC2=C1C=CC=C2)C | C11H13ClN2
